### PR TITLE
feat: `Decidable` as subtype of `Bool`

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR changes the definition of `Decidable p` to a structure containing a `Bool` and a proof of either `p` or `¬p`.

This is basically the approach proposed by @kmill in #2038.

Due to bugs in the old compiler, this was previously not possible; however, now that the new compiler is enabled, this works perfectly fine.

Using `Bool` in the definition of `Decidable` has several advantages, in particular
- There are many more definitional equalities, e.g.
  ```lean
  variable (a b : Bool)

  #check (rfl : decide (a = true) = a)
  #check (rfl : decide (a = false) = !a)
  #check (rfl : decide (a = true ∧ b = true) = a && b)
  #check (rfl : decide (a = true ∨ b = true) = a || b)
  #check (rfl : decide (¬a) = !a)
  #check (rfl : decide (a = true ↔ b = true) = (a == b))
  ```
- The `decide` tactic no longer needs to carry proofs with it, improving performance for well-written `Decidable` instances.
- `LawfulBEq` and `DecidableEq` are now compatible: When using the `DecidableEq` instance provided by `LawfulBEq`, `decide (a = b)` is definitionally equivalent to `a == b`.
- `Decidable` no longer needs special casing in the compiler.

In order to take full advantage from these changes, it is recommended to use the `decidable_of_bool` and `decidable_of_iff` functions to construct `Decidable` instances.

This is a breaking change, but in part due to `Decidable.isTrue` and `Decidable.isFalse` remaining as `match_pattern`s, surprisingly few (meta-)programs break.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 579d0ad15db8062933ecc0833562c875216cc9d7 --onto 2b4f372317f214e92988a79fc765586fbfb64e97`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-13 10:04:37)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ff85acedb91537b383b744fcf4639a3a663df90f --onto 29cc75531a5a0e8626fa5e96371e7ceb98877782`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-14 12:42:55)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 106708ee78ef174fb69c34c76a08b1321a85f6ca --onto 9b9dd8546a123d746580649b239f26c26d370d20`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-08 12:29:16)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase e7c8baaef5daac6e94bb4e18c2c49d3810ad55a2 --onto db499e96aac8ad654c8ed5ab40c4e6885d38c9a1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-21 09:34:17)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-07-10 22:07:54) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16206880024)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-07-11 05:50:15) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16212825592)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-07-11 05:53:25) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16212861537)
- ❌ Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) built against this PR, but testing failed. (2025-07-11 06:35:46) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16212926035)
- ❌ Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) built against this PR, but testing failed. (2025-07-11 07:16:37) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16213503261)
- ✅ Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) has successfully built against this PR. (2025-07-11 07:52:53) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16214698821)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-07-13` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-13 11:08:55)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 20873d5d7293d18d3f2aeda35388a23ea7f406a7 --onto d869c38e7bee7d484040b758837be76f55db9498`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-17 00:44:23)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-09-17 16:23:21) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17803799213)
Forcing Mathlib CI because the `force-mathlib-ci` label is present, despite problem: - ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase be2c2bcf9b9b27dc223e9141d6ba9c0204f68397 --onto efbbb0b230ce95653d25b59c83fd24a51a8bf363`. (2025-10-25 19:41:18)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-10-25 19:53:49) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18807656723)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-10-25 20:39:56) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18807801786)
- ❌ Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) built against this PR, but testing failed. (2025-10-25 20:55:28) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18808245026)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2025-10-25 21:08:04) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18808466483)
- ✅ Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) has successfully built against this PR. (2025-10-25 22:10:56) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/18808548524)
- 💥 Mathlib branch [lean-pr-testing-8309](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-8309) build failed against this PR. (2026-02-02 20:03:04) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/21603117154)

**Comment by Rob23oba** [comment]
force-mathlib-ci

**Comment by Rob23oba** [comment]
force-mathlib-ci

**Comment by Rob23oba** [comment]
release-ci

**Comment by Rob23oba** [comment]
force-mathlib-ci

**Comment by Rob23oba** [comment]
force-mathlib-ci

**Comment by Rob23oba** [comment]
changelog-library

**Review by hargoniX — COMMENTED** [review]
The general approach and the changes you did inside of the compiler seem reasonable to me. I do not feel confident enough in all of the elaborator to sign off on the change my own so I would prefer someone else to take a look at that as well.

One thing I was wondering though: You're redefining lots of `Decidable` instances though I would assume (or at least hope) that one can simply keep the old code around without type checking issues? What's the motivation for the change here?

**Comment by Rob23oba** [comment]
Well, the idea is to make boolean functions and `Decidable` instances more compatible and more performant with the new system. For example, we wrap most `Decidable` instances directly in a constructor application as to reduce the projection `decide` quicker and use boolean functions to provide compatibility with them (e.g. making `decide (a = true ∧ b = true) = a && b` or `Nat.beq m n = (m == n)` true by defeq). One important part about this is that due to directly using a constructor with a boolean function, we don't need to carry proofs around while reducing. I haven't done this with all of them yet but I'll maybe do it with some of the other ones in the future.

**Comment by hargoniX** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/23d879d569e8dc2a0ae4f94fd85870c8be7e44c0?parent=be2c2bcf9b9b27dc223e9141d6ba9c0204f68397) for 23d879d569e8dc2a0ae4f94fd85870c8be7e44c0 against be2c2bcf9b9b27dc223e9141d6ba9c0204f68397 are in! @hargoniX
<details open>
<summary>Major changes (8)</summary>

- `Init.Prelude async//instructions` changed by **+3.0%** (🟥).
- `ilean roundtrip//instructions` changed by **+2.2%** (🟥).
- `iterators (elab)//instructions` changed by **-2.8%** (✅).
- `parser//instructions` changed by **-2.2%** (✅).
- `phashmap.lean//instructions` changed by **+2.5%** (🟥).
- `rbmap_1//instructions` changed by **+19.3%** (🟥).
- `reduceMatch//instructions` changed by **+2.7%** (🟥).
- `stdlib//instructions` changed by **+0.4%** (🟥).
</details>
<details>
<summary>Minor changes (18)</summary>

- `Init.Data.BitVec.Lemmas//instructions` changed by **-0.7%** (✅).
- `big_deceq//instructions` changed by **+1.2%** (🟥).
- `big_deceq_rec//instructions` changed by **+1.3%** (🟥).
- `bv_decide_mod//instructions` changed by **-0.9%** (✅).
- `bv_decide_mul//instructions` changed by **-0.9%** (✅).
- `bv_decide_realworld//instructions` changed by **-0.8%** (✅).
- `grind_bitvec2.lean//instructions` changed by **-0.7%** (✅).
- `hashmap.lean//instructions` changed by **+1.9%** (🟥).
- `identifier auto-completion//instructions` changed by **+2.0%** (🟥).
- `import Lean//instructions` changed by **+1.0%** (🟥).
- `iterators (interpreted)//instructions` changed by **+1.9%** (🟥).
- `lake build no-op//instructions` changed by **+0.9%** (🟥).
- `language server startup//instructions` changed by **+0.6%** (🟥).
- `rbmap//instructions` changed by **-1.6%** (✅).
- `riscv-ast.lean//instructions` changed by **+1.3%** (🟥).
- `treemap.lean//instructions` changed by **+0.7%** (🟥).
- `workspaceSymbols with new ranges//instructions` changed by **+0.6%** (🟥).
- `workspaceSymbols//instructions` changed by **+1.9%** (🟥).
</details>

**Comment by nomeata** [comment]
I wouldn't call this a `chore`. It’s at least a `refactor`, if not a `perf` or `feat` actually. It certainly warrants being shown in the release notes.

**Comment by Rob23oba** [comment]
Yeah, you're right, I also thought about that

**Comment by wrenna-robson** [comment]
I am not a maintainer or anything - so my voice has the least weight here compared to anyone else - but I do want to say I like these changes and find them very sensible in principle, and have some comments.

One question: you mention that due to these changes, `decidable_of_bool` and `decidable_of_iff` are recommended to construct decidability instances. But obviously this isn't how many elementary decidability instances are constructed in the prelude and often that is where users will look! In practice it seems we are often even in the very early files retaining the definition of Decidable using `match` statements, and I just wonder: this doesn't seem to chime with the recommendation you make and I do worry it would be confusing to users. Could you introduce these constructors earlier and be stricter about their use? To be clear I think it absolutely makes sense to have `isTrue` and `isFalse` as match patterns and eliminate using them - it means that if nothing else we solve a lot of compatibility issues - but I think bluntly your recommendations above will not be followed unless you more clearly demonstrate their use.

I also wonder about this `Bool.Reflects` predicate that you define: I like it and it seems like it gives good definitional equality, but you mention it is equivalent to `b \iff p` and I haven't yet found that theorem in what you have. It seems to me that surely that would affect your definition of `decidable_of_bool`, which is essentially the same as your new definition of `Decidable` except for this difference. Yet you construct `decidable_of_bool` using a match statement - even though by all rights this one, at least, should be constructable using the constructor directly.

**Comment by Rob23oba** [comment]
Well, the main point of the `Bool.Reflects` predicate is that I want that `Decidable.intro true h` / `Decidable.intro false h` typechecks for `h : p` / `h : ¬p` under reducible transparency. As such, it currently has no API except its definitional equalities. I haven't quite decided yet on whether we want users to interact with `Bool.Reflects` directly but since it is part of the definition of `Decidable`, people will most likely naturally stumble upon it and I see how it could be weird then to see that `Bool.Reflects` doesn't have any API.
Regarding how you're meant to construct `Decidable` instances: What I mean by that sentence is that if you use `decidable_of_iff` and `decidable_of_bool`, you'll get the definitional equality advantages of the new definition, which you won't get if you instead use `match` with `isTrue` and `isFalse`. The question of whether `Decidable.intro` is fine is I guess the question of whether we want to consider it and `Bool.Reflects` part of the public API -- I haven't quite decided yet but it might be a good idea; but we can also do this later. For `Decidable` instances that use `match`es: I intend to reduce the amount of them later but at first it's simpler to reduce the amount of changes since there's also all kinds of bootstrapping weirdness involved.
Also, if you meant `match` statements as the second parameter of `Decidable.intro`: There's not really any problem with that, in fact I'm not sure if there's really a better way to do this; it's just a proof parameter and we have proof irrelevance so it doesn't really matter.

**Comment by wrenna-robson** [comment]
My gut feeling is that one should only define something if one intends to create API for it. You could replace `decide.Reflects p` with `cond decide p (Not p)` and I think it would still have all the properties you want for it. Or even `bif decide then p else Not p`, if we have that notation at that point though that feels somewhat like over-egging it. Conversely you could proceed with introducing `Reflects` - which I actually quite like - but then I feel you want at minimum `b.Reflects p \iff (b = true \iff p)` as a theorem somewhere.

I see the point about proof irrelevancy making the match statements not matter though and bootstrapping can be a pain.

My instinct is that `Decidable.intro` isn't needed and should probably be private... but this is because I think `decidable_of_iff` is Just Better for actually constructing an instance.

**Comment by Rob23oba** [comment]
> You could replace `decide.Reflects p` with `cond decide p (Not p)` and I think it would still have all the properties you want for it.

You're right, that's what I originally had. However, `cond` doesn't reduce under reducible transparency and `Decidable.isTrue` is an abbreviation, so when you unfold it you'd end up with a term that doesn't typecheck under reducible transparency (under the `cond` definition), so you'd end up with defeq abuse (It probably wouldn't matter but better be safe). Also, `Decidable.intro` can't be private since we need to expose `Decidable.isTrue` and `Decidable.isFalse` for match patterns and exposed definitions can't refer to private declarations.

**Comment by wrenna-robson** [comment]
Right, yes I see. If they weren't abbreviations that would not be an issue, is that right?

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
Benchmarking 3a1950e9e6d40fa169c4e105485e8c5b36e98589 against c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c ([preliminary results](https://radar.lean-lang.org/repos/lean4/commits/3a1950e9e6d40fa169c4e105485e8c5b36e98589?reference=c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/3a1950e9e6d40fa169c4e105485e8c5b36e98589?reference=c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c) for 3a1950e9e6d40fa169c4e105485e8c5b36e98589 against c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c are in! @Rob23oba

- ✅ `build//instructions`: **-6.6G** (**-0.05%**)

**Large changes (8✅, 14🟥)**

Too many entries to display here. View the full report on radar instead.

**Medium changes (23✅, 25🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (186✅, 684🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/a35671f37ba782e074780c01848a5151793b475e?reference=c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c) for a35671f37ba782e074780c01848a5151793b475e against c7a9a4e18c2c1defa4261b852f38f6d67f18eb1c are in! @Rob23oba

- ✅ `build//instructions`: **-132.8G** (**-1.03%**)

**Large changes (10✅, 11🟥)**

Too many entries to display here. View the full report on radar instead.

**Medium changes (35✅, 15🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (278✅, 352🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/5ca0af8414cb42faad25c436d2eef89bd1a4dcc7?reference=da62a81e5e2e65cf21783a6277fbe8dbd3ad073b) for 5ca0af8414cb42faad25c436d2eef89bd1a4dcc7 against da62a81e5e2e65cf21783a6277fbe8dbd3ad073b are in! @Rob23oba

- ✅ `build//instructions`: **-136.0G** (**-1.07%**)

**Large changes (12✅, 11🟥)**

Too many entries to display here. View the full report on radar instead.

**Medium changes (33✅, 14🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (279✅, 343🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/b5eabcc5eef9c4b4cda01746cf8b79c68a8d07cc?reference=da62a81e5e2e65cf21783a6277fbe8dbd3ad073b) for b5eabcc5eef9c4b4cda01746cf8b79c68a8d07cc against da62a81e5e2e65cf21783a6277fbe8dbd3ad073b are in! @Rob23oba

- ✅ `build//instructions`: **-173.0G** (**-1.36%**)

**Large changes (10✅, 5🟥)**

- ✅ `Init.Data.BitVec.Lemmas//instructions`: **-1.6G** (**-1.24%**)
- 🟥 `Init.Prelude async//instructions`: **+338.7M** (**+2.74%**)
- ✅ `big_match_nat_split//instructions`: **-310.3M** (**-2.49%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-5.6G** (**-10.08%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-6.8G** (**-17.19%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-13.1G** (**-17.64%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-5.6G** (**-7.21%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.7G** (**-9.36%**)
- ✅ `bv_decide_mul//instructions`: **-661.3M** (**-1.59%**)
- ✅ `cbv tactic (Eratosthenes' sieve)//instructions`: **-4.3G** (**-6.72%**)
- 🟥 `charactersIn//instructions`: **+8.1G** (**+20.07%**)
- ✅ `ilean roundtrip//instructions`: **-289.5M** (**-1.10%**)
- 🟥 `parser//instructions`: **+199.6M** (**+0.48%**)
- 🟥 `tests/compiler//sum binary sizes`: **+7.8M** (**+0.63%**)
- 🟥 `treemap.lean//instructions`: **+54.9M** (**+0.24%**)

**Medium changes (36✅, 12🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (386✅, 181🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/d4c5323899460fdb81693d62c3aacbb7f374810b?reference=da62a81e5e2e65cf21783a6277fbe8dbd3ad073b) for d4c5323899460fdb81693d62c3aacbb7f374810b against da62a81e5e2e65cf21783a6277fbe8dbd3ad073b are in! @Rob23oba

- ✅ `build//instructions`: **-148.6G** (**-1.17%**)

**Large changes (15✅, 6🟥)**

Too many entries to display here. View the full report on radar instead.

**Medium changes (39✅, 14🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (308✅, 335🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/a0d0da8fd99b36756618bc68b15f7b5a782843b7?reference=da62a81e5e2e65cf21783a6277fbe8dbd3ad073b) for a0d0da8fd99b36756618bc68b15f7b5a782843b7 against da62a81e5e2e65cf21783a6277fbe8dbd3ad073b are in! @Rob23oba

- ✅ `build//instructions`: **-177.5G** (**-1.40%**)

**Large changes (11✅, 2🟥)**

- ✅ `Init.Data.BitVec.Lemmas//instructions`: **-1.5G** (**-1.21%**)
- 🟥 `Init.Prelude async//instructions`: **+340.0M** (**+2.75%**)
- ✅ `big_match_nat_split//instructions`: **-314.6M** (**-2.52%**)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-5.2G** (**-6.64%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-5.6G** (**-10.06%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-6.8G** (**-17.03%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-11.5G** (**-15.60%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-5.5G** (**-7.05%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.6G** (**-9.31%**)
- ✅ `bv_decide_mul//instructions`: **-611.2M** (**-1.47%**)
- ✅ `cbv tactic (Eratosthenes' sieve)//instructions`: **-4.3G** (**-6.71%**)
- ✅ `ilean roundtrip//instructions`: **-288.0M** (**-1.09%**)
- 🟥 `parser//instructions`: **+198.5M** (**+0.48%**)

**Medium changes (40✅, 10🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (447✅, 175🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/5a05ac902691954c12bfe6f193984369feb459f6?reference=39c26fce1da321b24eaf949d0d7d028ba589e4e1) for 5a05ac902691954c12bfe6f193984369feb459f6 against 39c26fce1da321b24eaf949d0d7d028ba589e4e1 are in! @Rob23oba

- ✅ `build//instructions`: **-179.6G** (**-1.41%**)

**Large changes (11✅, 2🟥)**

- ✅ `Init.Data.BitVec.Lemmas//instructions`: **-1.4G** (**-1.11%**)
- 🟥 `Init.Prelude async//instructions`: **+341.5M** (**+2.76%**)
- ✅ `big_match_nat_split//instructions`: **-316.0M** (**-2.53%**)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-5.3G** (**-6.66%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-5.6G** (**-10.09%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-6.8G** (**-17.11%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-11.4G** (**-15.47%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-5.5G** (**-7.06%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.6G** (**-9.29%**)
- ✅ `bv_decide_mul//instructions`: **-621.3M** (**-1.49%**)
- ✅ `cbv tactic (Eratosthenes' sieve)//instructions`: **-4.3G** (**-6.74%**)
- ✅ `ilean roundtrip//instructions`: **-289.6M** (**-1.10%**)
- 🟥 `parser//instructions`: **+198.1M** (**+0.48%**)

**Medium changes (40✅, 11🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (449✅, 175🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/30fa331832a7fc4dfa635603fb79f540dc667ed3?reference=caad2607893b2a35c054d241726840de866c4bc1) for 30fa331832a7fc4dfa635603fb79f540dc667ed3 against caad2607893b2a35c054d241726840de866c4bc1 are in! @Rob23oba

- ✅ `build//instructions`: **-13.6G** (**-0.11%**)

**Large changes (7✅, 7🟥)**

- 🟥 `build/module/Lean.Elab.Tactic.BVDecide.Frontend.Normalize.Simproc//instructions`: **+5.3G** (**+14.88%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-5.7G** (**-14.70%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-11.0G** (**-15.11%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.1G** (**-9.14%**)
- 🟥 `compiled/parser//instructions`: **+131.9M** (**+0.32%**)
- 🟥 `compiled/phashmap//instructions`: **+118.8M** (**+1.21%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-22.4M** (**-2.98%**)
- 🟥 `elab/big_match_nat//instructions`: **+4.4G** (**+84.64%**)
- 🟥 `elab/big_match_nat_split//instructions`: **+805.2M** (**+6.80%**)
- ✅ `elab/cbv_decide//instructions`: **-8.9G** (**-17.13%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.18%**)
- 🟥 `elab/cbv_merge_sort//instructions`: **+2.4G** (**+11.21%**)
- 🟥 `misc/import Init.Prelude//instructions`: **+349.6M** (**+2.84%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.83%**)

**Medium changes (24✅, 12🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (170✅, 645🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/688d6b2bf051d1f776997712e5d9a5ef95fc42c2?reference=caad2607893b2a35c054d241726840de866c4bc1) for 688d6b2bf051d1f776997712e5d9a5ef95fc42c2 against caad2607893b2a35c054d241726840de866c4bc1 are in! @Rob23oba

- ✅ `build//instructions`: **-12.3G** (**-0.10%**)

**Large changes (7✅, 6🟥)**

- 🟥 `build/module/Lean.Elab.Tactic.BVDecide.Frontend.Normalize.Simproc//instructions`: **+5.3G** (**+14.87%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-5.6G** (**-14.68%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-11.1G** (**-15.24%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.1G** (**-9.11%**)
- 🟥 `compiled/parser//instructions`: **+132.2M** (**+0.32%**)
- 🟥 `compiled/phashmap//instructions`: **+118.4M** (**+1.21%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-22.4M** (**-2.98%**)
- 🟥 `elab/big_match_nat//instructions`: **+4.4G** (**+84.63%**)
- 🟥 `elab/big_match_nat_split//instructions`: **+800.3M** (**+6.76%**)
- ✅ `elab/cbv_decide//instructions`: **-10.0G** (**-19.13%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.16%**)
- 🟥 `misc/import Init.Prelude//instructions`: **+349.7M** (**+2.84%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.82%**)

**Medium changes (25✅, 13🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (168✅, 641🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/0068e7605875a1fd8a9b200d9e953e1c1252d1e2?reference=caad2607893b2a35c054d241726840de866c4bc1) for 0068e7605875a1fd8a9b200d9e953e1c1252d1e2 against caad2607893b2a35c054d241726840de866c4bc1 are in! @Rob23oba

- ✅ `build//instructions`: **-140.8G** (**-1.11%**)

**Large changes (11✅, 3🟥)**

- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-5.2G** (**-6.79%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-5.3G** (**-9.94%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-6.6G** (**-17.05%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.StructId//instructions`: **-11.3G** (**-15.52%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-5.4G** (**-7.05%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-12.0G** (**-9.06%**)
- 🟥 `compiled/parser//instructions`: **+132.8M** (**+0.32%**)
- 🟥 `compiled/phashmap//instructions`: **+117.9M** (**+1.21%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-22.3M** (**-2.98%**)
- ✅ `elab/cbv_arm_ldst//instructions`: **-1.6G** (**-2.07%**)
- ✅ `elab/cbv_decide//instructions`: **-9.9G** (**-19.02%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.14%**)
- 🟥 `misc/import Init.Prelude//instructions`: **+331.9M** (**+2.70%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.81%**)

**Medium changes (36✅, 5🟥)**

Too many entries to display here. View the full report on radar instead.

**Small changes (292✅, 266🟥)**

Too many entries to display here. View the full report on radar instead.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/a7726c52995c2c6af06bfc29edfbbd82f0c8309f?reference=3259610687883ec1ea48c481aba2469f2f83facf) for a7726c52995c2c6af06bfc29edfbbd82f0c8309f against 3259610687883ec1ea48c481aba2469f2f83facf are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-34.9G** (**-0.30%**)
- 🟥 `other` exited with code **1**

**Large changes (3✅, 1🟥)**

- 🟥 `build/module/Init.Data.Nat.ToString//instructions`: **+8.0G** (**+28.05%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.86%**)
- ✅ `size/all/.c//lines`: **-120.5k** (**-1.01%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.84%**)

**Medium changes (17✅)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-3.7G** (**-13.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.0G** (**-4.68%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.5G** (**-16.02%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.1G** (**-5.49%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.3G** (**-13.39%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.7G** (**-8.14%**)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.0G** (**-3.94%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.2G** (**-4.33%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-2.8G** (**-6.99%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.3G** (**-12.90%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.4G** (**-5.77%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.5G** (**-10.50%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.3G** (**-7.47%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Do.SPred.Notation//instructions`: **-1.7G** (**-9.67%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-2.8G** (**-33.36%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Internal.Char//instructions`: **-1.5G** (**-30.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Substructure//instructions`: **-1.3G** (**-15.03%**) (reduced significance based on absolute threshold)

**Small changes (207✅, 549🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+19.9M** (**+0.94%**)
- 🟥 `build/module/Init.Classical//instructions`: **+23.8M** (**+2.22%**)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+17.3M** (**+0.80%**)
- 🟥 `build/module/Init.Control.Except//instructions`: **+10.5M** (**+0.76%**)
- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+14.7M** (**+0.69%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+32.4M** (**+0.47%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+9.2M** (**+0.79%**)
- 🟥 `build/module/Init.Control.StateRef//instructions`: **+7.7M** (**+0.86%**)
- 🟥 `build/module/Init.Conv//instructions`: **+35.2M** (**+0.94%**)
- 🟥 `build/module/Init.Core//instructions`: **+248.2M** (**+2.53%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+38.0M** (**+0.36%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-94.2M** (**-3.87%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-522.3M** (**-0.95%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-133.3M** (**-8.95%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+44.0M** (**+0.44%**)
- 🟥 `build/module/Init.Data.Array.MapIdx//instructions`: **+33.7M** (**+0.38%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+23.9M** (**+0.39%**)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+22.2M** (**+0.54%**)
- 🟥 `build/module/Init.Data.Array.Zip//instructions`: **+27.0M** (**+0.57%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.8M** (**+0.86%**)
- *and 735 more*
- *and 1 hidden*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/c278104bf4ea03d4c9f262f21473cce5e1d0a618?reference=9e44042a4208e8bbb06dc3a43a0ada0d933170b9) for c278104bf4ea03d4c9f262f21473cce5e1d0a618 against 9e44042a4208e8bbb06dc3a43a0ada0d933170b9 are in. There are significant results. @Rob23oba

- 🟥 `build` exited with code **1**
- 🟥 `other` exited with code **1**

No significant changes detected.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/9a82f245585ca8a71ab0bbcef3d178ecdb173df7?reference=9e44042a4208e8bbb06dc3a43a0ada0d933170b9) for 9a82f245585ca8a71ab0bbcef3d178ecdb173df7 against 9e44042a4208e8bbb06dc3a43a0ada0d933170b9 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-57.8G** (**-0.50%**)

**Large changes (12✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.18%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.91%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-249.3M** (**-1.11%**)
- 🟥 `compiled/parser//instructions`: **+343.3M** (**+0.99%**)
- 🟥 `compiled/phashmap//instructions`: **+77.6M** (**+0.89%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.41%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.88%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.82%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.02%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//task-clock`: **-231ms** (**-12.22%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-137ms** (**-12.06%**)
- ✅ `size/all/.c//lines`: **-120.2k** (**-1.00%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.84%**)

**Medium changes (18✅, 9🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-15.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-1.8G** (**-4.26%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.1G** (**-5.40%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.3G** (**-13.54%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.7G** (**-8.03%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.2G** (**-4.32%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-2.7G** (**-6.97%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.3G** (**-12.93%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.4G** (**-5.72%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.5G** (**-10.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.3G** (**-7.43%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Do.SPred.Notation//instructions`: **-1.6G** (**-9.57%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-2.8G** (**-32.94%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Internal.Char//instructions`: **-1.6G** (**-31.66%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Substructure//instructions`: **-1.3G** (**-15.02%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Std.Tactic.BVDecide.LRAT.Internal.Formula.RatAddResult//instructions`: **+1.5G** (**+15.86%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Std.Tactic.BVDecide.LRAT.Internal.Formula.RatAddSound//instructions`: **+1.7G** (**+10.71%**) (reduced significance based on absolute threshold)
- 🟥 `compiled/watchdogRss//instructions`: **+156.3M** (**+0.61%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-11.9M** (**-1.79%**)
- *and 7 more*

**Small changes (208✅, 571🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+21.1M** (**+0.99%**)
- 🟥 `build/module/Init.Classical//instructions`: **+22.0M** (**+2.05%**)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+17.8M** (**+0.82%**)
- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+13.8M** (**+0.65%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+34.7M** (**+0.51%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+9.1M** (**+0.79%**)
- 🟥 `build/module/Init.Conv//instructions`: **+36.6M** (**+0.98%**)
- 🟥 `build/module/Init.Core//instructions`: **+248.6M** (**+2.54%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+35.5M** (**+0.34%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-95.9M** (**-3.94%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Find//instructions`: **+62.2M** (**+0.62%**)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-132.5M** (**-8.90%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+41.0M** (**+0.41%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+25.8M** (**+0.42%**)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+24.0M** (**+0.58%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.8M** (**+0.88%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-259.2M** (**-0.49%**)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+14.4M** (**+1.87%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-654.2M** (**-0.54%**)
- ✅ `build/module/Init.Data.Bool//instructions`: **-147.3M** (**-3.45%**) (reduced significance based on absolute threshold)
- *and 758 more*
- *and 1 hidden*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/cf4f6b0d61a4464023d625940c83fa1c929e0d12?reference=9e44042a4208e8bbb06dc3a43a0ada0d933170b9) for cf4f6b0d61a4464023d625940c83fa1c929e0d12 against 9e44042a4208e8bbb06dc3a43a0ada0d933170b9 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-58.0G** (**-0.50%**)

**Large changes (12✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.17%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.92%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-249.5M** (**-1.11%**)
- 🟥 `compiled/parser//instructions`: **+343.0M** (**+0.99%**)
- 🟥 `compiled/phashmap//instructions`: **+77.4M** (**+0.89%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.27%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.79%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.85%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.01%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//task-clock`: **-224ms** (**-11.85%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-135ms** (**-11.94%**)
- ✅ `size/all/.c//lines`: **-120.2k** (**-1.00%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.84%**)

**Medium changes (18✅, 9🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-15.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-1.8G** (**-4.22%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.30%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.1G** (**-5.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.3G** (**-13.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.7G** (**-7.99%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.2G** (**-4.33%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-2.7G** (**-6.96%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.3G** (**-12.90%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.4G** (**-5.75%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.5G** (**-10.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.3G** (**-7.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Do.SPred.Notation//instructions`: **-1.6G** (**-9.60%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-2.8G** (**-32.89%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Internal.Char//instructions`: **-1.6G** (**-31.63%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Substructure//instructions`: **-1.3G** (**-15.18%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Std.Tactic.BVDecide.LRAT.Internal.Formula.RatAddResult//instructions`: **+1.6G** (**+15.98%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Std.Tactic.BVDecide.LRAT.Internal.Formula.RatAddSound//instructions`: **+1.7G** (**+10.67%**) (reduced significance based on absolute threshold)
- 🟥 `compiled/watchdogRss//instructions`: **+156.3M** (**+0.61%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-11.9M** (**-1.78%**)
- *and 7 more*

**Small changes (211✅, 556🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+20.7M** (**+0.98%**)
- 🟥 `build/module/Init.Classical//instructions`: **+22.3M** (**+2.08%**)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+17.3M** (**+0.80%**)
- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+14.4M** (**+0.67%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+40.7M** (**+0.60%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+10.2M** (**+0.88%**)
- 🟥 `build/module/Init.Conv//instructions`: **+36.9M** (**+0.99%**)
- 🟥 `build/module/Init.Core//instructions`: **+254.5M** (**+2.60%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+39.4M** (**+0.38%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-95.5M** (**-3.92%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Find//instructions`: **+60.1M** (**+0.60%**)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-133.9M** (**-9.00%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+42.4M** (**+0.43%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+26.3M** (**+0.43%**)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+22.9M** (**+0.56%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+5.0M** (**+0.91%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-237.4M** (**-0.44%**)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+12.8M** (**+1.66%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-636.1M** (**-0.52%**)
- ✅ `build/module/Init.Data.Bool//instructions`: **-146.9M** (**-3.45%**) (reduced significance based on absolute threshold)
- *and 746 more*
- *and 1 hidden*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/e9e6d23a9e7739bd9c5e0ce8050986363bc18a9c?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for e9e6d23a9e7739bd9c5e0ce8050986363bc18a9c against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-74.2G** (**-0.64%**)

**New metrics (4✅, 1🟥)**

- ✅ `elab/delayed_lift//cycles`: **-6.8M** (**-0.21%**)
- 🟥 `elab/delayed_lift//instructions`: **+16.7M** (**+0.29%**)
- ✅ `elab/delayed_lift//maxrss`: **-992kiB** (**-0.05%**)
- ✅ `elab/delayed_lift//task-clock`: **-3ms** (**-0.47%**)
- ✅ `elab/delayed_lift//wall-clock`: **-2ms** (**-0.25%**)

**Large changes (12✅, 5🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.08%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-10.8G** (**-9.70%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.22%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-247.4M** (**-1.11%**)
- 🟥 `compiled/parser//instructions`: **+350.4M** (**+1.02%**)
- 🟥 `compiled/phashmap//instructions`: **+77.2M** (**+0.89%**)
- 🟥 `compiled/rbmap_checkpoint//instructions`: **+4.0G** (**+31.59%**)
- 🟥 `compiled/rbmap_checkpoint//task-clock`: **+627ms** (**+42.80%**)
- 🟥 `compiled/rbmap_checkpoint//wall-clock`: **+654ms** (**+44.40%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.74%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.60%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-72.14%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.78%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.03%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-146ms** (**-12.72%**)
- ✅ `size/all/.c//lines`: **-119.9k** (**-1.00%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.83%**)

**Medium changes (21✅, 8🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-15.88%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.0G** (**-4.66%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.1G** (**-5.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.3G** (**-13.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.7G** (**-8.06%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.2G** (**-4.29%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-2.7G** (**-6.93%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.3G** (**-12.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.4G** (**-5.72%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.5G** (**-10.46%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.3G** (**-7.41%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Do.SPred.Notation//instructions`: **-1.6G** (**-9.55%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Internal.Char//instructions`: **-1.5G** (**-30.25%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Substructure//instructions`: **-1.3G** (**-15.02%**) (reduced significance based on absolute threshold)
- 🟥 `compiled/watchdogRss//instructions`: **+152.0M** (**+0.59%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-10.6M** (**-1.59%**)
- 🟥 `elab/big_deceq_rec//instructions`: **+63.2M** (**+1.14%**)
- 🟥 `elab/big_match_nat//instructions`: **+116.2M** (**+2.49%**)
- ✅ `elab/big_match_nat_split//instructions`: **-230.2M** (**-2.23%**)
- *and 8 more*
- *and 1 hidden*

**Small changes (236✅, 539🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+19.6M** (**+0.92%**)
- 🟥 `build/module/Init.Classical//instructions`: **+23.0M** (**+2.15%**)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+17.6M** (**+0.81%**)
- 🟥 `build/module/Init.Control.Except//instructions`: **+10.0M** (**+0.72%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+39.0M** (**+0.57%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+9.9M** (**+0.85%**)
- 🟥 `build/module/Init.Conv//instructions`: **+36.6M** (**+0.98%**)
- 🟥 `build/module/Init.Core//instructions`: **+255.3M** (**+2.60%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+41.1M** (**+0.39%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-93.8M** (**-3.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-542.7M** (**-0.99%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-132.6M** (**-8.91%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+28.9M** (**+0.47%**)
- 🟥 `build/module/Init.Data.Array.Zip//instructions`: **+26.2M** (**+0.56%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.3M** (**+0.78%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-435.3M** (**-0.82%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+12.5M** (**+1.63%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-883.6M** (**-0.73%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-147.0M** (**-3.39%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.0M** (**+0.79%**)
- *and 755 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/a1419e0e29a55a2d9d9d220da7a793b46973a01a?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for a1419e0e29a55a2d9d9d220da7a793b46973a01a against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-162.1G** (**-1.39%**)

**New metrics (2✅, 3🟥)**

- ✅ `elab/delayed_lift//cycles`: **-5.1M** (**-0.16%**)
- 🟥 `elab/delayed_lift//instructions`: **+14.1M** (**+0.25%**)
- ✅ `elab/delayed_lift//maxrss`: **-9MiB** (**-0.48%**)
- 🟥 `elab/delayed_lift//task-clock`: **+2ms** (**+0.33%**)
- 🟥 `elab/delayed_lift//wall-clock`: **+3ms** (**+0.49%**)

**Large changes (13✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.12%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.92%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.30%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-198.8M** (**-0.89%**)
- 🟥 `compiled/parser//instructions`: **+344.9M** (**+1.00%**)
- 🟥 `compiled/phashmap//instructions`: **+72.4M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.76%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.53%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.98%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.77%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.99%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-141ms** (**-12.40%**)
- ✅ `size/all/.c//lines`: **-154.7k** (**-1.29%**)
- ✅ `size/all/.ir//bytes`: **-4MiB** (**-1.04%**)
- ✅ `size/all/.olean.private//bytes`: **-13MiB** (**-1.00%**)

**Medium changes (33✅, 8🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.12%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.18%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.1G** (**-2.77%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.9G** (**-9.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.5G** (**-16.18%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.5G** (**-4.69%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.22%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.22%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.0G** (**-5.07%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.10%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-5.98%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.83%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.7G** (**-5.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.12%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.16%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-7.90%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.9G** (**-12.27%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.14%**) (reduced significance based on absolute threshold)
- *and 20 more*
- *and 1 hidden*

**Small changes (471✅, 108🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+16.2M** (**+1.52%**)
- 🟥 `build/module/Init.Core//instructions`: **+177.5M** (**+1.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-98.2M** (**-4.04%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-652.6M** (**-1.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-136.6M** (**-9.17%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+5.3M** (**+0.96%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-464.4M** (**-0.87%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+9.6M** (**+1.25%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-983.6M** (**-0.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-174.1M** (**-4.02%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+3.9M** (**+0.77%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-13.0M** (**-1.31%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-56.7M** (**-0.95%**)
- ✅ `build/module/Init.Data.Format.Instances//instructions`: **-14.6M** (**-1.69%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-13.6M** (**-1.12%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-469.5M** (**-1.20%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+3.8M** (**+0.76%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers.Collect//instructions`: **+5.2M** (**+0.79%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers//instructions`: **+4.4M** (**+0.86%**)
- 🟥 `build/module/Init.Data.Iterators.Lemmas.Consumers.Access//instructions`: **+5.1M** (**+0.74%**)
- *and 559 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/5536ca272be333bc5e37c4c6d5a3e12bc38b5837?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for 5536ca272be333bc5e37c4c6d5a3e12bc38b5837 against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- 🟥 `build//instructions`: **+16.7T** (**+143.18%**)
- 🟥 `other` exited with code **1**

**Large changes (1✅, 772🟥)**

- 🟥 `build//task-clock`: **+34m 30s** (**+100.07%**)
- 🟥 `build//wall-clock`: **+2m 59s** (**+122.26%**)
- 🟥 `build/lakeprof/longest build path//instructions`: **+2.5T** (**+172.01%**)
- 🟥 `build/lakeprof/longest build path//wall-clock`: **+3m** (**+126.52%**)
- 🟥 `build/lakeprof/longest rebuild path//instructions`: **+1.4T** (**+226.45%**)
- 🟥 `build/lakeprof/longest rebuild path//wall-clock`: **+1m 54s** (**+153.07%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+7.6G** (**+110.83%**)
- 🟥 `build/module/Init.Conv//instructions`: **+5.1G** (**+137.39%**)
- 🟥 `build/module/Init.Core//instructions`: **+13.1G** (**+133.72%**)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+13.7G** (**+131.32%**)
- 🟥 `build/module/Init.Data.Array.Basic//instructions`: **+13.3G** (**+121.22%**)
- 🟥 `build/module/Init.Data.Array.Erase//instructions`: **+8.1G** (**+110.31%**)
- 🟥 `build/module/Init.Data.Array.Extract//instructions`: **+25.2G** (**+66.49%**)
- 🟥 `build/module/Init.Data.Array.Find//instructions`: **+12.8G** (**+128.21%**)
- 🟥 `build/module/Init.Data.Array.Lemmas//instructions`: **+63.9G** (**+116.43%**)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+13.6G** (**+137.12%**)
- 🟥 `build/module/Init.Data.Array.MapIdx//instructions`: **+10.5G** (**+117.46%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+7.9G** (**+128.95%**)
- 🟥 `build/module/Init.Data.Array.QSort.Basic//instructions`: **+10.9G** (**+101.88%**)
- 🟥 `build/module/Init.Data.Array.Zip//instructions`: **+5.5G** (**+117.06%**)
- *and 752 more*
- *and 1 hidden*

**Medium changes (822🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+2.8G** (**+132.03%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.CbvSimproc//instructions`: **+2.4G** (**+115.80%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+3.0G** (**+138.42%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Except//instructions`: **+1.5G** (**+109.19%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+2.0G** (**+95.50%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach.Instances//instructions`: **+1.3G** (**+79.83%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.State//instructions`: **+1.1G** (**+104.87%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.AC//instructions`: **+4.4G** (**+112.76%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.BinSearch//instructions`: **+3.4G** (**+52.73%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Bootstrap//instructions`: **+1.8G** (**+75.10%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Count//instructions`: **+3.1G** (**+111.39%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.DecidableEq//instructions`: **+2.5G** (**+107.33%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.InsertIdx//instructions`: **+2.0G** (**+74.19%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Mem//instructions`: **+1.2G** (**+101.93%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.MinMax//instructions`: **+3.1G** (**+108.26%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.OfFn//instructions`: **+1.9G** (**+93.12%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Perm//instructions`: **+1.8G** (**+99.03%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+4.2G** (**+103.29%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Sort.Basic//instructions`: **+1.8G** (**+63.96%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Sort.Lemmas//instructions`: **+2.9G** (**+87.61%**) (reduced significance based on absolute threshold)
- *and 802 more*

**Small changes (8✅, 869🟥)**

- 🟥 `build/module/Init.BinderNameHint//instructions`: **+16.9M** (**+5.12%**)
- 🟥 `build/module/Init.ByCases//instructions`: **+607.8M** (**+77.83%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Classical//instructions`: **+634.0M** (**+59.15%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Coe//instructions`: **+567.0M** (**+82.46%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Do//instructions`: **+147.4M** (**+28.80%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.EState//instructions`: **+400.2M** (**+58.06%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.ExceptCps//instructions`: **+928.4M** (**+85.42%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Id//instructions`: **+226.9M** (**+47.89%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.Lemmas//instructions`: **+244.1M** (**+34.86%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach.Lemmas//instructions`: **+701.6M** (**+69.80%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach//instructions`: **+7.1M** (**+1.45%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Basic//instructions`: **+99.6M** (**+30.98%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+868.8M** (**+75.07%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Lemmas//instructions`: **+561.3M** (**+65.20%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Lawful.MonadLift//instructions`: **+7.8M** (**+1.59%**)
- 🟥 `build/module/Init.Control.MonadAttach//instructions`: **+231.2M** (**+32.92%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Option//instructions`: **+753.7M** (**+88.13%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.Reader//instructions`: **+283.1M** (**+58.12%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.StateCps//instructions`: **+726.2M** (**+72.20%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Control.StateRef//instructions`: **+646.3M** (**+71.45%**) (reduced significance based on absolute threshold)
- *and 857 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/47bd5e78e6f930a4ae8f0f62c15303deb16b43d8?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for 47bd5e78e6f930a4ae8f0f62c15303deb16b43d8 against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-78.7G** (**-0.67%**)

**New metrics (1✅, 4🟥)**

- 🟥 `elab/delayed_lift//cycles`: **+7.4M** (**+0.23%**)
- 🟥 `elab/delayed_lift//instructions`: **+20.4M** (**+0.35%**)
- 🟥 `elab/delayed_lift//maxrss`: **+5MiB** (**+0.27%**)
- 🟥 `elab/delayed_lift//task-clock`: **+2ms** (**+0.32%**)
- ✅ `elab/delayed_lift//wall-clock`: **-21ms** (**-3.52%**)

**Large changes (12✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.08%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.83%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.23%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-249.7M** (**-1.12%**)
- 🟥 `compiled/parser//instructions`: **+353.6M** (**+1.03%**)
- 🟥 `compiled/phashmap//instructions`: **+77.2M** (**+0.89%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.32%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.81%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.77%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.02%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-139ms** (**-12.22%**)
- ✅ `size/all/.c//lines`: **-119.9k** (**-1.00%**)
- ✅ `size/all/.ir//bytes`: **-3MiB** (**-0.83%**)

**Medium changes (21✅, 9🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-15.89%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.0G** (**-4.68%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.1G** (**-5.47%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.3G** (**-13.44%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.7G** (**-8.05%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.2G** (**-4.38%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-2.7G** (**-6.91%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.3G** (**-12.91%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.4G** (**-5.71%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.5G** (**-10.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.3G** (**-7.47%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Do.SPred.Notation//instructions`: **-1.6G** (**-9.58%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Http.Internal.Char//instructions`: **-1.5G** (**-30.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Substructure//instructions`: **-1.3G** (**-15.06%**) (reduced significance based on absolute threshold)
- ✅ `build/profile/module linting//wall-clock`: **-4ms** (**-53.63%**)
- 🟥 `compiled/watchdogRss//instructions`: **+160.6M** (**+0.62%**)
- ✅ `compiled/workspaceSymbolsNewRanges//instructions`: **-12.0M** (**-1.80%**)
- 🟥 `elab/big_deceq_rec//instructions`: **+63.9M** (**+1.15%**)
- 🟥 `elab/big_match_nat//instructions`: **+116.5M** (**+2.50%**)
- *and 9 more*
- *and 1 hidden*

**Small changes (273✅, 535🟥)**

- 🟥 `build/module/Init.BinderPredicates//instructions`: **+19.7M** (**+0.93%**)
- 🟥 `build/module/Init.Classical//instructions`: **+22.2M** (**+2.07%**)
- 🟥 `build/module/Init.Control.Basic//instructions`: **+17.9M** (**+0.83%**)
- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+15.2M** (**+0.71%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+36.2M** (**+0.53%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+10.2M** (**+0.88%**)
- 🟥 `build/module/Init.Conv//instructions`: **+32.1M** (**+0.86%**)
- 🟥 `build/module/Init.Core//instructions`: **+257.1M** (**+2.62%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+38.0M** (**+0.36%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-93.0M** (**-3.82%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-548.9M** (**-1.00%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-132.1M** (**-8.87%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+51.0M** (**+0.51%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+28.5M** (**+0.47%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+5.3M** (**+0.96%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-434.7M** (**-0.82%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+10.4M** (**+1.35%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-847.2M** (**-0.70%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-148.1M** (**-3.42%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.1M** (**+0.80%**)
- *and 788 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/be7255466e60b5a67ca7e7ffee0ff2f6ea4c5fbe?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for be7255466e60b5a67ca7e7ffee0ff2f6ea4c5fbe against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-163.6G** (**-1.40%**)

**New metrics (3✅, 2🟥)**

- ✅ `elab/delayed_lift//cycles`: **-8.7M** (**-0.27%**)
- 🟥 `elab/delayed_lift//instructions`: **+14.7M** (**+0.26%**)
- ✅ `elab/delayed_lift//maxrss`: **-7MiB** (**-0.39%**)
- ✅ `elab/delayed_lift//task-clock`: **-1ms** (**-0.20%**)
- 🟥 `elab/delayed_lift//wall-clock`: **+1ms** (**+0.16%**)

**Large changes (13✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.11%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.89%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.30%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-199.5M** (**-0.89%**)
- 🟥 `compiled/parser//instructions`: **+344.3M** (**+1.00%**)
- 🟥 `compiled/phashmap//instructions`: **+72.5M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.55%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-72.04%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.78%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.00%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-136ms** (**-11.90%**)
- ✅ `size/all/.c//lines`: **-152.9k** (**-1.28%**)
- ✅ `size/all/.ir//bytes`: **-4MiB** (**-1.02%**)
- ✅ `size/all/.olean.private//bytes`: **-12MiB** (**-0.95%**)

**Medium changes (36✅, 9🟥)**

- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-1.0G** (**-0.83%**)
- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.1G** (**-2.88%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Command//instructions`: **-1.9G** (**-9.26%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.PreDefinition.Main//instructions`: **-1.5G** (**-16.18%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.5G** (**-4.72%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.24%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.29%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.0G** (**-5.09%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-6.08%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.89%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.79%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.11%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.18%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-7.93%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.31%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.6G** (**-9.01%**) (reduced significance based on absolute threshold)
- *and 24 more*
- *and 1 hidden*

**Small changes (482✅, 96🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+17.1M** (**+1.59%**)
- 🟥 `build/module/Init.Core//instructions`: **+173.0M** (**+1.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-97.0M** (**-3.99%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-647.9M** (**-1.18%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-136.8M** (**-9.19%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex.Lemmas//instructions`: **+39.6M** (**+0.40%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.4M** (**+0.80%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-469.4M** (**-0.88%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.1M** (**+1.44%**)
- ✅ `build/module/Init.Data.Bool//instructions`: **-169.4M** (**-3.91%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.2M** (**+0.82%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-14.2M** (**-1.43%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-53.2M** (**-0.89%**)
- ✅ `build/module/Init.Data.Format.Instances//instructions`: **-17.8M** (**-2.06%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-15.6M** (**-1.29%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-453.9M** (**-1.16%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+3.8M** (**+0.76%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers.Collect//instructions`: **+4.0M** (**+0.62%**)
- 🟥 `build/module/Init.Data.Iterators.Lemmas.Consumers.Access//instructions`: **+4.1M** (**+0.60%**)
- ✅ `build/module/Init.Data.List.Basic//instructions`: **-46.6M** (**-0.35%**)
- *and 558 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/15d1559f8f6440e476d320f750a377029c311bc4?reference=366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d) for 15d1559f8f6440e476d320f750a377029c311bc4 against 366c0a8ba4f6d6445c8f9383c4fab0a4be1cbc9d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-156.5G** (**-1.34%**)

**Large changes (10✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.12%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.88%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.29%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-239.5M** (**-1.07%**)
- 🟥 `compiled/parser//instructions`: **+305.3M** (**+0.89%**)
- 🟥 `compiled/phashmap//instructions`: **+72.5M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.76%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.53%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-72.04%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.81%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.99%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-130ms** (**-11.37%**)

**Medium changes (33✅, 9🟥)**

- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-1.0G** (**-0.84%**)
- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.String.Decode//instructions`: **-1.0G** (**-3.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.88%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.17%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.62%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.43%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.33%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.56%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.5G** (**-5.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-5.94%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.85%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.7G** (**-5.83%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.08%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.03%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.33%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.6G** (**-9.03%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.39%**) (reduced significance based on absolute threshold)
- *and 21 more*
- *and 1 hidden*

**Small changes (453✅, 98🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+19.6M** (**+1.83%**)
- 🟥 `build/module/Init.Core//instructions`: **+173.1M** (**+1.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-98.4M** (**-4.04%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-652.6M** (**-1.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-135.6M** (**-9.11%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+5.0M** (**+0.91%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-488.5M** (**-0.92%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.1M** (**+1.44%**)
- ✅ `build/module/Init.Data.Bool//instructions`: **-171.4M** (**-3.96%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.8M** (**+0.94%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-16.7M** (**-1.68%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-52.6M** (**-0.88%**)
- ✅ `build/module/Init.Data.Format.Instances//instructions`: **-17.3M** (**-2.01%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-13.5M** (**-1.12%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-471.7M** (**-1.20%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+4.7M** (**+0.93%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers.Collect//instructions`: **+4.6M** (**+0.71%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers//instructions`: **+4.9M** (**+0.96%**)
- 🟥 `build/module/Init.Data.Iterators.Lemmas.Consumers.Access//instructions`: **+4.6M** (**+0.68%**)
- ✅ `build/module/Init.Data.List.Basic//instructions`: **-53.9M** (**-0.41%**)
- *and 531 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/7659ebf1387647becc4b224509aae55c49229d39?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for 7659ebf1387647becc4b224509aae55c49229d39 against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-143.6G** (**-1.23%**)

**New metrics (3✅, 7🟥)**

- 🟥 `lake/inundation/build/precompile/clean//cycles`: **+1.8G** (**+0.27%**)
- 🟥 `lake/inundation/build/precompile/clean//instructions`: **+427.3M** (**+0.08%**)
- ✅ `lake/inundation/build/precompile/clean//maxrss`: **-4MiB** (**-0.37%**)
- 🟥 `lake/inundation/build/precompile/clean//task-clock`: **+180ms** (**+0.14%**)
- ✅ `lake/inundation/build/precompile/clean//wall-clock`: **-1ms** (**-0.01%**)
- 🟥 `lake/inundation/build/precompile/no-op//cycles`: **+68.1M** (**+4.13%**)
- 🟥 `lake/inundation/build/precompile/no-op//instructions`: **+12.7M** (**+0.40%**)
- 🟥 `lake/inundation/build/precompile/no-op//maxrss`: **+4MiB** (**+0.42%**)
- 🟥 `lake/inundation/build/precompile/no-op//task-clock`: **+14ms** (**+4.60%**)
- ✅ `lake/inundation/build/precompile/no-op//wall-clock`: **+0s** (**-0.15%**)

**Large changes (10✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.17%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.93%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.28%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-320.0M** (**-1.43%**)
- 🟥 `compiled/parser//instructions`: **+330.9M** (**+0.96%**)
- 🟥 `compiled/phashmap//instructions`: **+72.4M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.76%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.22%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.78%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.77%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.81%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-128ms** (**-11.32%**)

**Medium changes (30✅, 6🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.57%**)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.42%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.28%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.50%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.5G** (**-5.89%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-6.01%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.81%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.11%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.17%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.01%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.31%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.87%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.39%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.36%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.70%**) (reduced significance based on absolute threshold)
- *and 15 more*
- *and 1 hidden*

**Small changes (393✅, 136🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+17.4M** (**+1.62%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+28.9M** (**+0.42%**)
- 🟥 `build/module/Init.Core//instructions`: **+173.7M** (**+1.77%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-96.1M** (**-3.94%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-654.9M** (**-1.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-133.6M** (**-8.98%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.1M** (**+0.74%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-455.7M** (**-0.85%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.4M** (**+1.48%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-913.2M** (**-0.75%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-167.0M** (**-3.83%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.8M** (**+0.94%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-16.1M** (**-1.62%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-46.1M** (**-0.77%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Operations.OfScientific//instructions`: **+7.1M** (**+1.14%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+4.7M** (**+0.87%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+13.9M** (**+1.12%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-15.9M** (**-1.31%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-414.3M** (**-1.06%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+4.7M** (**+0.93%**)
- *and 509 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/d3948ba549d17592a4a8b35fea2c38c5b069b216?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for d3948ba549d17592a4a8b35fea2c38c5b069b216 against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-133.3G** (**-1.14%**)

**New metrics (3✅, 7🟥)**

- ✅ `lake/inundation/build/precompile/clean//cycles`: **-887.2M** (**-0.13%**)
- 🟥 `lake/inundation/build/precompile/clean//instructions`: **+497.5M** (**+0.10%**)
- ✅ `lake/inundation/build/precompile/clean//maxrss`: **-1MiB** (**-0.13%**)
- ✅ `lake/inundation/build/precompile/clean//task-clock`: **-507ms** (**-0.39%**)
- 🟥 `lake/inundation/build/precompile/clean//wall-clock`: **+21ms** (**+0.20%**)
- 🟥 `lake/inundation/build/precompile/no-op//cycles`: **+113.8M** (**+6.91%**)
- 🟥 `lake/inundation/build/precompile/no-op//instructions`: **+7.9M** (**+0.25%**)
- 🟥 `lake/inundation/build/precompile/no-op//maxrss`: **+17MiB** (**+1.87%**)
- 🟥 `lake/inundation/build/precompile/no-op//task-clock`: **+28ms** (**+9.04%**)
- 🟥 `lake/inundation/build/precompile/no-op//wall-clock`: **+3ms** (**+0.97%**)

**Large changes (10✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.18%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.88%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.37%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-324.7M** (**-1.45%**)
- 🟥 `compiled/parser//instructions`: **+334.3M** (**+0.97%**)
- 🟥 `compiled/phashmap//instructions`: **+72.5M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.33%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.82%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.72%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.91%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-136ms** (**-11.96%**)

**Medium changes (28✅, 6🟥)**

- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-1.0G** (**-0.84%**)
- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.6G** (**-16.30%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.0G** (**-3.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.16%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.2G** (**-4.90%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.4G** (**-5.57%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.68%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.60%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.02%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-13.93%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.9G** (**-7.73%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.9G** (**-12.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.78%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.39%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.WrapInstance//instructions`: **-2.4G** (**-20.75%**) (reduced significance based on absolute threshold)
- *and 13 more*
- *and 1 hidden*

**Small changes (353✅, 170🟥)**

- 🟥 `build/module/Init.ByCases//instructions`: **+14.5M** (**+1.85%**)
- 🟥 `build/module/Init.Classical//instructions`: **+25.3M** (**+2.36%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+27.3M** (**+0.40%**)
- 🟥 `build/module/Init.Conv//instructions`: **+23.6M** (**+0.63%**)
- 🟥 `build/module/Init.Core//instructions`: **+198.9M** (**+2.02%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-98.1M** (**-4.03%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-660.6M** (**-1.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-144.2M** (**-9.69%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.1M** (**+0.74%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-496.9M** (**-0.93%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.6M** (**+1.50%**)
- ✅ `build/module/Init.Data.Bool//instructions`: **-166.1M** (**-3.81%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+5.1M** (**+1.01%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-15.1M** (**-1.52%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-53.7M** (**-0.90%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Operations.OfScientific//instructions`: **+9.5M** (**+1.51%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Pack.Basic//instructions`: **+16.5M** (**+1.92%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Sign//instructions`: **+10.5M** (**+1.48%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+4.6M** (**+0.85%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+16.0M** (**+1.29%**)
- *and 503 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/5daf56e10507324235de0eb895abe5e3f2b9fd7d?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for 5daf56e10507324235de0eb895abe5e3f2b9fd7d against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

- 🟥 `build` exited with code **1**
- 🟥 `other` exited with code **1**

No significant changes detected.

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/a2780d050d1fb4e1f7f348910805a6879a016f5f?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for a2780d050d1fb4e1f7f348910805a6879a016f5f against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-144.4G** (**-1.24%**)

**New metrics (4✅, 6🟥)**

- 🟥 `lake/inundation/build/precompile/clean//cycles`: **+3.6G** (**+0.53%**)
- 🟥 `lake/inundation/build/precompile/clean//instructions`: **+318.8M** (**+0.06%**)
- ✅ `lake/inundation/build/precompile/clean//maxrss`: **-2MiB** (**-0.21%**)
- 🟥 `lake/inundation/build/precompile/clean//task-clock`: **+221ms** (**+0.17%**)
- ✅ `lake/inundation/build/precompile/clean//wall-clock`: **-10ms** (**-0.10%**)
- 🟥 `lake/inundation/build/precompile/no-op//cycles`: **+29.9M** (**+1.81%**)
- 🟥 `lake/inundation/build/precompile/no-op//instructions`: **+7.4M** (**+0.23%**)
- ✅ `lake/inundation/build/precompile/no-op//maxrss`: **-4MiB** (**-0.46%**)
- 🟥 `lake/inundation/build/precompile/no-op//task-clock`: **+6ms** (**+1.85%**)
- ✅ `lake/inundation/build/precompile/no-op//wall-clock`: **+0s** (**-0.14%**)

**Large changes (10✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.18%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.88%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.23%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-324.9M** (**-1.45%**)
- 🟥 `compiled/parser//instructions`: **+302.0M** (**+0.88%**)
- 🟥 `compiled/phashmap//instructions`: **+72.3M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.76%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.37%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.94%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.81%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.98%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-133ms** (**-11.74%**)

**Medium changes (30✅, 7🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-15.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.54%**)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.43%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.30%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.35%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.5G** (**-5.71%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.4G** (**-5.75%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.80%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.79%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.17%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.02%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.32%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.6G** (**-8.97%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.40%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.39%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.67%**) (reduced significance based on absolute threshold)
- *and 16 more*
- *and 1 hidden*

**Small changes (392✅, 127🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+15.6M** (**+1.45%**)
- 🟥 `build/module/Init.Core//instructions`: **+176.5M** (**+1.80%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-97.3M** (**-4.00%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-678.4M** (**-1.24%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-136.3M** (**-9.16%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+3.8M** (**+0.69%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-475.8M** (**-0.89%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.2M** (**+1.46%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-970.3M** (**-0.80%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-177.9M** (**-4.08%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.1M** (**+0.80%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-15.9M** (**-1.60%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-54.1M** (**-0.91%**)
- 🟥 `build/module/Init.Data.Float.Float//instructions`: **+79.2M** (**+7.87%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Float.Float32//instructions`: **+41.6M** (**+4.06%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Operations.OfScientific//instructions`: **+7.3M** (**+1.17%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+4.4M** (**+0.82%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+15.6M** (**+1.26%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-17.3M** (**-1.42%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-427.8M** (**-1.09%**) (reduced significance based on absolute threshold)
- *and 499 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/8cdc53536e33607f2a308ed295fdf65ad83e7835?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for 8cdc53536e33607f2a308ed295fdf65ad83e7835 against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-148.4G** (**-1.27%**)

**New metrics (2✅, 8🟥)**

- 🟥 `lake/inundation/build/precompile/clean//cycles`: **+1.1G** (**+0.16%**)
- ✅ `lake/inundation/build/precompile/clean//instructions`: **-47.2M** (**-0.01%**)
- 🟥 `lake/inundation/build/precompile/clean//maxrss`: **+3MiB** (**+0.28%**)
- ✅ `lake/inundation/build/precompile/clean//task-clock`: **-300ms** (**-0.23%**)
- 🟥 `lake/inundation/build/precompile/clean//wall-clock`: **+25ms** (**+0.24%**)
- 🟥 `lake/inundation/build/precompile/no-op//cycles`: **+87.7M** (**+5.33%**)
- 🟥 `lake/inundation/build/precompile/no-op//instructions`: **+14.4M** (**+0.46%**)
- 🟥 `lake/inundation/build/precompile/no-op//maxrss`: **+5MiB** (**+0.53%**)
- 🟥 `lake/inundation/build/precompile/no-op//task-clock`: **+20ms** (**+6.56%**)
- 🟥 `lake/inundation/build/precompile/no-op//wall-clock`: **+1ms** (**+0.34%**)

**Large changes (10✅, 2🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.19%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.0G** (**-9.88%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.22%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-238.5M** (**-1.07%**)
- 🟥 `compiled/parser//instructions`: **+294.9M** (**+0.86%**)
- 🟥 `compiled/phashmap//instructions`: **+72.6M** (**+0.83%**)
- ✅ `elab/cbv_decide//instructions`: **-21.0G** (**-68.75%**)
- ✅ `elab/cbv_decide//task-clock`: **-2s** (**-72.14%**)
- ✅ `elab/cbv_decide//wall-clock`: **-2s** (**-71.69%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.73%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.83%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-134ms** (**-11.79%**)

**Medium changes (31✅, 8🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.String.Decode//instructions`: **-1.0G** (**-3.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.59%**)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.47%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.24%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.29%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.57%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.5G** (**-5.89%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-5.95%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.85%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.77%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.04%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.22%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.06%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.37%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.6G** (**-9.03%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.38%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.42%**) (reduced significance based on absolute threshold)
- *and 18 more*
- *and 1 hidden*

**Small changes (401✅, 98🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+17.3M** (**+1.61%**)
- 🟥 `build/module/Init.Core//instructions`: **+168.9M** (**+1.72%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-99.2M** (**-4.07%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-685.6M** (**-1.25%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-136.0M** (**-9.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-471.0M** (**-0.88%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+12.8M** (**+1.66%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-976.5M** (**-0.80%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-174.9M** (**-4.01%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-17.6M** (**-1.76%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-52.1M** (**-0.87%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+4.4M** (**+0.82%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+13.3M** (**+1.07%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-18.6M** (**-1.53%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-448.7M** (**-1.15%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+4.3M** (**+0.85%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers//instructions`: **+4.3M** (**+0.84%**)
- 🟥 `build/module/Init.Data.Iterators.Lemmas.Consumers.Access//instructions`: **+4.7M** (**+0.69%**)
- ✅ `build/module/Init.Data.List.Basic//instructions`: **-56.5M** (**-0.43%**)
- ✅ `build/module/Init.Data.List.Nat.Erase//instructions`: **-21.9M** (**-0.59%**)
- *and 479 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/8affd30f7abde55dcc5481d001aceac494ff4168?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for 8affd30f7abde55dcc5481d001aceac494ff4168 against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run build differ between commits.
> - Bench repo commit hashes for run other differ between commits.

- ✅ `build//instructions`: **-145.1G** (**-1.24%**)

**Large changes (9✅, 6🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.18%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.89%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.27%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-325.2M** (**-1.45%**)
- 🟥 `compiled/parser//instructions`: **+333.8M** (**+0.97%**)
- 🟥 `compiled/phashmap//instructions`: **+72.2M** (**+0.83%**)
- 🟥 `elab/cbv_decide//instructions`: **+28.6G** (**+93.87%**)
- 🟥 `elab/cbv_decide//task-clock`: **+1s** (**+57.31%**)
- 🟥 `elab/cbv_decide//wall-clock`: **+1s** (**+57.84%**)
- 🟥 `elab/cbv_leroy//instructions`: **+2.7G** (**+6.61%**)
- ✅ `elab/cbv_merge_sort//instructions`: **-2.0G** (**-12.71%**)
- ✅ `elab/cbv_merge_sort//task-clock`: **-151ms** (**-11.27%**)
- ✅ `elab/cbv_merge_sort//wall-clock`: **-151ms** (**-11.33%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.83%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-135ms** (**-11.91%**)

**Medium changes (31✅, 10🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.5G** (**-16.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.83%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.12%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.56%**)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.37%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.27%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.52%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-5.97%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.83%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.10%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.16%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.02%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.31%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.87%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.36%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.35%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.62%**) (reduced significance based on absolute threshold)
- *and 20 more*
- *and 1 hidden*

**Small changes (391✅, 126🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+17.0M** (**+1.59%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+30.8M** (**+0.45%**)
- 🟥 `build/module/Init.Core//instructions`: **+173.2M** (**+1.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-99.6M** (**-4.09%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-629.5M** (**-1.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-134.8M** (**-9.06%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.0M** (**+0.72%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-461.3M** (**-0.86%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+10.9M** (**+1.41%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-955.8M** (**-0.79%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-164.3M** (**-3.77%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.6M** (**+0.91%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-16.4M** (**-1.64%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-53.2M** (**-0.89%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Operations.OfScientific//instructions`: **+6.9M** (**+1.10%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+5.1M** (**+0.95%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+15.8M** (**+1.28%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-15.1M** (**-1.24%**)
- 🟥 `build/module/Init.Data.Int.Cooper//instructions`: **+12.2M** (**+0.66%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-427.1M** (**-1.09%**) (reduced significance based on absolute threshold)
- *and 497 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/03e1dd0bca28ffbb66a1cb9f02cb0cf1ca2f1fbb?reference=0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402) for 03e1dd0bca28ffbb66a1cb9f02cb0cf1ca2f1fbb against 0bfc3acaef4ed0576307a77fbaa0c6e1a5dca402 are in. There are significant results. @Rob23oba

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Bench repo commit hashes for run build differ between commits.
> - Bench repo commit hashes for run other differ between commits.

- ✅ `build//instructions`: **-144.2G** (**-1.24%**)

**Large changes (10✅, 3🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.3G** (**-74.18%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.93%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.26%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-324.6M** (**-1.45%**)
- 🟥 `compiled/parser//instructions`: **+334.3M** (**+0.97%**)
- 🟥 `compiled/phashmap//instructions`: **+72.3M** (**+0.83%**)
- 🟥 `elab/cbv_decide//instructions`: **+3.5G** (**+11.52%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.74%**)
- ✅ `elab/cbv_merge_sort//instructions`: **-2.3G** (**-14.62%**)
- ✅ `elab/cbv_merge_sort//task-clock`: **-185ms** (**-13.82%**)
- ✅ `elab/cbv_merge_sort//wall-clock`: **-184ms** (**-13.79%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.82%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-126ms** (**-11.09%**)

**Medium changes (34✅, 5🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.6G** (**-16.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.85%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.56%**)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.42%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.28%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.16%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.22%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-6.00%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.87%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.77%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.09%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.05%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.33%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.88%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.40%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.35%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.66%**) (reduced significance based on absolute threshold)
- *and 18 more*
- *and 1 hidden*

**Small changes (387✅, 120🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+18.7M** (**+1.74%**)
- 🟥 `build/module/Init.Core//instructions`: **+172.6M** (**+1.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-99.3M** (**-4.08%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-643.6M** (**-1.17%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-134.6M** (**-9.05%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.3M** (**+0.79%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-463.0M** (**-0.87%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+11.4M** (**+1.48%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-977.9M** (**-0.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-166.5M** (**-3.82%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray//instructions`: **+4.3M** (**+0.84%**)
- ✅ `build/module/Init.Data.Char.Basic//instructions`: **-16.3M** (**-1.63%**)
- ✅ `build/module/Init.Data.Char.Ordinal//instructions`: **-52.7M** (**-0.88%**)
- 🟥 `build/module/Init.Data.Float.Model.Unpacked.Operations.OfScientific//instructions`: **+7.6M** (**+1.21%**)
- 🟥 `build/module/Init.Data.FloatArray//instructions`: **+4.7M** (**+0.88%**)
- 🟥 `build/module/Init.Data.Int.Basic//instructions`: **+14.6M** (**+1.18%**)
- ✅ `build/module/Init.Data.Int.Compare//instructions`: **-16.1M** (**-1.33%**)
- ✅ `build/module/Init.Data.Int.DivMod.Lemmas//instructions`: **-418.7M** (**-1.07%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Iterators.Combinators//instructions`: **+4.1M** (**+0.82%**)
- 🟥 `build/module/Init.Data.Iterators.Consumers//instructions`: **+5.1M** (**+1.01%**)
- *and 487 more*

**Comment by Rob23oba** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/507f2a8e1c9583bd29222af18441d6e86c96a5a2?reference=58a8cd7017bc4fa37adafb821bb2bebb1f99479c) for 507f2a8e1c9583bd29222af18441d6e86c96a5a2 against 58a8cd7017bc4fa37adafb821bb2bebb1f99479c are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-146.4G** (**-1.25%**)

**Large changes (11✅, 3🟥)**

- ✅ `build/module/Init.Data.Nat.ToString//instructions`: **-21.2G** (**-74.15%**)
- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-11.1G** (**-9.93%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.21%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-325.5M** (**-1.45%**)
- 🟥 `compiled/parser//instructions`: **+334.9M** (**+0.97%**)
- 🟥 `compiled/phashmap//instructions`: **+72.8M** (**+0.84%**)
- 🟥 `elab/cbv_decide//instructions`: **+3.3G** (**+10.94%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-5.75%**)
- ✅ `elab/cbv_merge_sort//instructions`: **-2.3G** (**-14.60%**)
- ✅ `elab/cbv_merge_sort//task-clock`: **-188ms** (**-14.00%**)
- ✅ `elab/cbv_merge_sort//wall-clock`: **-186ms** (**-13.93%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-9.83%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-120ms** (**-10.66%**)
- ✅ `lake/inundation/config/elab//instructions`: **-109.4M** (**-3.69%**)

**Medium changes (36✅, 6🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-4.6G** (**-16.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.60%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.45%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.9G** (**-9.26%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.14%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.56%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.24%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-5.97%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.71%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.2G** (**-8.13%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.20%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.03%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-3.0G** (**-12.32%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.89%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.37%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.35%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.73%**) (reduced significance based on absolute threshold)
- *and 21 more*
- *and 1 hidden*

**Small changes (418✅, 198🟥)**

- 🟥 `build/module/Init.Classical//instructions`: **+16.6M** (**+1.54%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+25.9M** (**+0.38%**)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach//instructions`: **+4.4M** (**+0.88%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+6.5M** (**+0.56%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift//instructions`: **+5.1M** (**+1.04%**)
- 🟥 `build/module/Init.Core//instructions`: **+171.0M** (**+1.73%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+26.5M** (**+0.25%**)
- ✅ `build/module/Init.Data.Array.BinSearch//instructions`: **-21.2M** (**-0.33%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-93.6M** (**-3.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-629.8M** (**-1.15%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-134.5M** (**-9.03%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+14.6M** (**+0.36%**)
- 🟥 `build/module/Init.Data.Array.Sort//instructions`: **+5.0M** (**+0.95%**)
- 🟥 `build/module/Init.Data.Array.Zip//instructions`: **+19.2M** (**+0.41%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+4.8M** (**+0.87%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-448.9M** (**-0.84%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.BitVec.Bootstrap//instructions`: **-11.1M** (**-0.40%**)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+12.1M** (**+1.57%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-983.4M** (**-0.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-168.9M** (**-3.86%**) (reduced significance based on absolute threshold)
- *and 596 more*

**Comment by Rob23oba** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/d5073abc54b9c5aa427f4d5db1107f01720d224c?reference=786de003a141edda5c24ff7395ad6ddaefcc9a8d) for d5073abc54b9c5aa427f4d5db1107f01720d224c against 786de003a141edda5c24ff7395ad6ddaefcc9a8d are in. There are significant results. @Rob23oba

- ✅ `build//instructions`: **-123.5G** (**-1.06%**)

**Large changes (12✅, 2🟥)**

- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-10.2G** (**-9.93%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.43%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-324.9M** (**-1.45%**)
- 🟥 `compiled/phashmap//instructions`: **+72.5M** (**+0.83%**)
- 🟥 `elab/cbv_decide//instructions`: **+3.4G** (**+11.14%**)
- ✅ `elab/cbv_decide//task-clock`: **-347ms** (**-11.30%**)
- ✅ `elab/cbv_decide//wall-clock`: **-328ms** (**-10.74%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.8G** (**-5.83%**)
- ✅ `elab/cbv_merge_sort//instructions`: **-2.3G** (**-14.68%**)
- ✅ `elab/cbv_merge_sort//task-clock`: **-186ms** (**-13.78%**)
- ✅ `elab/cbv_merge_sort//wall-clock`: **-180ms** (**-13.44%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.7G** (**-10.03%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//task-clock`: **-235ms** (**-12.40%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-149ms** (**-12.95%**)

**Medium changes (33✅, 5🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-3.5G** (**-12.92%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-2.1G** (**-4.87%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.4G** (**-15.27%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.App//instructions`: **-1.0G** (**-2.59%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.1G** (**-3.40%**)
- ✅ `build/module/Lean.Elab.Tactic.Do.Internal.VCGen.Solve//instructions`: **-1.8G** (**-8.49%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.3G** (**-5.25%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.59%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.3G** (**-5.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-4.48%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize//instructions`: **-1.2G** (**-8.83%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.1G** (**-2.72%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.72%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.1G** (**-8.06%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.10%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-1.9G** (**-7.96%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.9G** (**-12.26%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.83%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.30%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.34%**) (reduced significance based on absolute threshold)
- *and 17 more*
- *and 1 hidden*

**Small changes (397✅, 193🟥)**

- 🟥 `build/module/Init.Control.Lawful.Basic//instructions`: **+10.7M** (**+0.50%**)
- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+29.3M** (**+0.43%**)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach//instructions`: **+4.6M** (**+0.95%**)
- 🟥 `build/module/Init.Core//instructions`: **+161.9M** (**+1.65%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.BinSearch//instructions`: **-24.5M** (**-0.38%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-89.6M** (**-3.71%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Erase//instructions`: **-22.7M** (**-0.31%**)
- ✅ `build/module/Init.Data.Array.Find//instructions`: **-28.7M** (**-0.29%**)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-647.7M** (**-1.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-133.8M** (**-9.08%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.MapIdx//instructions`: **+24.5M** (**+0.28%**)
- 🟥 `build/module/Init.Data.Array.QSort//instructions`: **+5.4M** (**+1.08%**)
- 🟥 `build/module/Init.Data.Array.Sort//instructions`: **+4.9M** (**+0.95%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+5.2M** (**+0.95%**)
- 🟥 `build/module/Init.Data.BEq//instructions`: **+12.2M** (**+1.57%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-471.1M** (**-0.89%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.BitVec.Decidable//instructions`: **+13.0M** (**+1.71%**)
- ✅ `build/module/Init.Data.BitVec.Lemmas//instructions`: **-913.6M** (**-0.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Bool//instructions`: **-163.9M** (**-3.76%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.ByteArray.Basic//instructions`: **+18.0M** (**+0.68%**)
- *and 570 more*

File: src/Init/Prelude.lean [hunk 1]
```diff
@@ -1033,21 +1154,49 @@ theorem of_decide_eq_self_eq_true [inst : DecidableEq α] (a : α) : Eq (decide
...
+  reflects_decide :=
+    match a, b with
+    | false, false => rfl
+    | false, true => Bool.noConfusion
+    | true, false => Bool.noConfusion
+    | true, true => rfl
 
-@[inline] instance : DecidableEq Bool :=
-   Bool.decEq
+@[macro_inline] instance : DecidableEq Bool :=
```
Comment (TwoFX) [inline src/Init/Prelude.lean:1282]: Not sure if I have ever seen `macro_inline` on an instance before. Does this work and is it necessary?

File: src/Init/Sym/Lemmas.lean [hunk 2]
```diff
@@ -178,6 +190,10 @@ theorem decide_isTrue_congr (p p' : Prop) (heq : p = p') {inst : Decidable p} {h
 theorem decide_isFalse (p : Prop) {inst : Decidable p} {h : ¬p} : decide p = false := by simp [*]
 theorem decide_isFalse_congr (p p' : Prop) (heq : p = p') {inst : Decidable p} {hnp : ¬p'} : decide p = false := by simp [*]
 
+theorem decide_congr_reduction (p p' : Prop) (heq : p = p') {inst : Decidable p} {inst' : Decidable p'}
```
Comment (TwoFX) [inline src/Init/Sym/Lemmas.lean]: Don't love the name, what do you think about `decide_eq_congr`?

File: src/Init/Classical.lean [hunk 3]
```diff
@@ -147,9 +147,7 @@ is classically true but not constructively. -/
 -- This can not be an instance as it would be tried everywhere.
 @[instance_reducible]
 def decidable_of_decidable_not (p : Prop) [h : Decidable (¬ p)] : Decidable p :=
-  match h with
-  | isFalse h => isTrue (Classical.not_not.mp h)
-  | isTrue h => isFalse h
+  decidable_of_decidable_of_iff not_not
```
Comment (TwoFX) [inline src/Init/Classical.lean]: I just noticed that we have both `decidable_of_iff` and `decidable_of_decidable_of_iff`...

File: src/Init/Core.lean [hunk 4]
```diff
@@ -1143,14 +1145,15 @@ end Decidable
 section
 variable {p q : Prop}
 /-- Transfer a decidability proof across an equivalence of propositions. -/
-@[inline] def decidable_of_decidable_of_iff [Decidable p] (h : p ↔ q) : Decidable q :=
-  if hp : p then
-    isTrue (Iff.mp h hp)
-  else
-    isFalse fun hq => absurd (Iff.mpr h hq) hp
+abbrev decidable_of_decidable_of_iff [dp : Decidable p] (h : p ↔ q) : Decidable q where
```
Comment (TwoFX) [inline src/Init/Core.lean:1148]: May I ask what motivated the switch from `@[inline] def` to `abbrev` here?

File: src/Init/Prelude.lean [hunk 5]
```diff
@@ -947,6 +947,106 @@ theorem PULift.up_down {α : Sort u} (b : PULift.{v} α) : Eq (up (down b)) b :=
...
+
+export Bool (or and not)
+
+/--
+Boolean equality. This should usually be used via the `a == b` notation.
+
+This function returns `true` if the booleans are equal or `false` otherwise. The propositional
+connective is `Iff : Prop → Prop → Prop`, written with the `↔` operator.
+
+This function comes with two definional equalities: `(a == true) = a` and `(a == false) = !a`.
```
Comment (TwoFX) [inline src/Init/Prelude.lean]:
```suggestion
This function comes with two definitional equalities: `(a == true) = a` and `(a == false) = !a`.
```

File: src/Init/Core.lean [hunk 6]
```diff
@@ -1161,17 +1164,14 @@ end
...
-      isTrue ⟨fun _ => hq, fun _ => hp⟩
-    else
-      isFalse fun h => hq (h.1 hp)
-  else
-    if hq : q then
-      isFalse fun h => hp (h.2 hq)
-    else
-      isTrue ⟨fun h => absurd h hp, fun h => absurd h hq⟩
+instance {p q} [dp : Decidable p] [dq : Decidable q] : Decidable (p ↔ q) where
+  decide := (decide p).beq (decide q)
```
Comment (TwoFX) [inline src/Init/Core.lean]:
```suggestion
  decide := decide p == decide q
```

File: src/Init/Core.lean [hunk 7]
```diff
@@ -1453,14 +1451,15 @@ instance [Inhabited α] [Inhabited β] : Inhabited (MProd α β) where
...
-      | isTrue e₂  => isTrue (e₁ ▸ e₂ ▸ rfl)
-      | isFalse n₂ => isFalse fun h => Prod.noConfusion rfl rfl (heq_of_eq h) fun _   e₂' => absurd (eq_of_heq e₂') n₂
-    | isFalse n₁ => isFalse fun h => Prod.noConfusion rfl rfl (heq_of_eq h) fun e₁' _   => absurd (eq_of_heq e₁') n₁
+    Decidable.intro (decide (a = a') && decide (b = b'))
+      (match h a a' with
+      | isTrue e₁ =>
+        match h' b b' with
+        | isTrue e₂  => (e₁ ▸ e₂ ▸ rfl : (a, b) = (a', b'))
+        | isFalse n₂ => fun h => Prod.noConfusion rfl rfl (heq_of_eq h) fun _ e₂' => absurd (eq_of_heq e₂') n₂
+      | isFalse n₁ => fun h => Prod.noConfusion rfl rfl (heq_of_eq h) fun e₁' _   => absurd (eq_of_heq e₁') n₁)
```
Comment (TwoFX) [inline src/Init/Core.lean:1462]: I wonder whether there is a pattern or heper function we can establish that allows dispatching these proofs without naming the instance.

File: src/Lean/Meta/Sym/Simp/EvalGround.lean [hunk 8]
```diff
@@ -97,11 +97,11 @@ abbrev evalUnaryBitVec' (op : {n : Nat} → BitVec n → BitVec n) (αExpr : Exp
   let e ← share <| toExpr (op a.val)
   return .step e (mkApp2 (mkConst ``Eq.refl [1]) αExpr e) (done := true)
 
-abbrev evalBin [ToExpr α] (toValue? : Expr → Option α) (op : α → α → α) (a b : Expr) : SimpM Result := do
+abbrev evalBin [ToExpr α] [ToExpr β] (toValue? : Expr → Option α) (op : α → α → β) (a b : Expr) : SimpM Result := do
```
Comment (TwoFX) [inline src/Lean/Meta/Sym/Simp/EvalGround.lean]: What's going on here? Is this an independent change that should be split out of the PR?

**Review by TwoFX — COMMENTED** [review]
Please also make a change to `stdlib_flags.h` so that CI runs the stage2 build.

File: src/Init/Prelude.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Init/Prelude.lean:1282]: It's on `instDecidableAnd`, for example. But this one in particular is meant to replace the hardcoding in the compiler (in `InlineCandidate`) and produces a performance benefit.

File: src/Init/Core.lean (hunk 4 above)
Comment (Rob23oba) [reply src/Init/Core.lean:1148]: Well, the idea is that this is now has good defeqs and it would be thus fine for e.g. instance synthesis to unfold this. I could've also used `@[instance_reducible]`, of course, but `abbrev` also gives it priority for unfolding, which is good, in my opinion.

File: src/Lean/Meta/Sym/Simp/EvalGround.lean (hunk 8 above)
Comment (Rob23oba) [reply src/Lean/Meta/Sym/Simp/EvalGround.lean]: I needed this for a previous iteration of the `cbv` change but not anymore; I'll revert.

File: src/Init/Core.lean (hunk 7 above)
Comment (Rob23oba) [reply src/Init/Core.lean:1462]: Well we almost named the instance before (just used `decEq` instead) so I don't think this is much of a big deal; but it'll matter even less if we can get this to work with the new deriving handler.

File: src/Lean/Meta/Tactic/Cbv/ControlFlow.lean [hunk 9]
```diff
@@ -271,37 +422,26 @@ builtin_cbv_simproc ↓ simpDecideCbv (@Decidable.decide _ _) := fun e => do
...
+        let congrWith (p' hp cd inst') :=
+          simpAndMatchDecideDecidableCongr p p' hp inst inst' do
+            let res := (mkConst ``Decidable.decide)
+            let res ← shareCommon res
+            let res ← mkAppS₂ res p' inst'
+            return .step res (mkApp5 (mkConst ``Decidable.decide.congr_simp) p p' hp inst inst') (done := true) (contextDependent := cd)
+        let (condRes, inst') ← rewriteDecidableInstance inst
+        match condRes with
+        | .rfl _ cd' =>
+          simpAndMatchDecideDecidable p inst do
```
Comment (wkrozowski) [inline src/Lean/Meta/Tactic/Cbv/ControlFlow.lean]: I don't understand why are we resynthesizing an instance here - could you please elaborate on that?

Comment (Rob23oba) [reply src/Lean/Meta/Tactic/Cbv/ControlFlow.lean]: Well I did this because of the `cbv_decidable_congr.lean` test but if we say this behavior is not necessary, I can remove this.

Comment (wkrozowski) [reply src/Lean/Meta/Tactic/Cbv/ControlFlow.lean]: I think it is safe to skip this test, as it was exhibiting how the original approach was dealing with stuck instances.

File: src/Lean/Compiler/LCNF/ToMono.lean
Comment (TwoFX) [inline src/Lean/Compiler/LCNF/ToMono.lean]: I think this can be updated now too.

File: src/Init/Prelude.lean [hunk 10]
```diff
@@ -947,6 +947,106 @@ theorem PULift.up_down {α : Sort u} (b : PULift.{v} α) : Eq (up (down b)) b :=
...
+`b.Reflects p` is propositionally equivalent to `b = true ↔ p` but has the definitional equalities
+`true.Reflects p ↔ p` and `false.Reflects p ↔ ¬p`.
+-/
+abbrev Bool.Reflects : Bool → Prop → Prop
+  | false, p => Not p
+  | true, p => p
+
 /--
 Either a proof that `p` is true or a proof that `p` is false. This is equivalent to a `Bool` paired
 with a proof that the `Bool` is `true` if and only if `p` is true.
```
Comment (TwoFX) [inline src/Init/Prelude.lean]: This reads a bit funny after the redefinition.

**Review by TwoFX — COMMENTED** [review]
I think it would be good to add a test for all the new defeqs that this change achieves, both as a regression test and a bit of documentation of intention.

**Comment by TwoFX** [comment]
Merging master will resolve the Lake test failures (this is due to a GH Actions quirk)

**Comment by TwoFX** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/52a7c6a2f2f599975cbbf02d18fc040a8ff6d36a?reference=44a3664c18cd5ca21e7806c2cd618c36cb21c2a2) for 52a7c6a2f2f599975cbbf02d18fc040a8ff6d36a against 44a3664c18cd5ca21e7806c2cd618c36cb21c2a2 are in. There are significant results. @TwoFX

- ✅ `build//instructions`: **-112.6G** (**-0.97%**)

**Large changes (9✅, 2🟥)**

- ✅ `build/module/Std.Data.HashMap.RawLemmas//instructions`: **-10.1G** (**-9.83%**)
- ✅ `build/module/Std.Http.Data.Headers.Name//instructions`: **-7.0G** (**-36.70%**)
- ✅ `compiled/ilean_roundtrip//instructions`: **-325.1M** (**-1.45%**)
- 🟥 `compiled/phashmap//instructions`: **+72.8M** (**+0.84%**)
- 🟥 `elab/cbv_decide//instructions`: **+3.1G** (**+10.34%**)
- ✅ `elab/cbv_decide//task-clock`: **-357ms** (**-11.84%**)
- ✅ `elab/cbv_decide//wall-clock`: **-343ms** (**-11.40%**)
- ✅ `elab/cbv_divisors//instructions`: **-2.7G** (**-6.66%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//instructions`: **-2.8G** (**-10.23%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//task-clock`: **-219ms** (**-11.88%**)
- ✅ `elab/whnfMatcherImplicitTransparencyCaching//wall-clock`: **-135ms** (**-12.16%**)

**Medium changes (29✅, 5🟥)**

- ✅ `build/module/Init.Data.String.Basic//instructions`: **-2.8G** (**-11.23%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Vector.Lemmas//instructions`: **-1.5G** (**-3.67%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lake.Build.Facets//instructions`: **-1.5G** (**-15.97%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.StructInst//instructions`: **-1.0G** (**-3.29%**)
- ✅ `build/module/Lean.Elab.Tactic.Omega.Frontend//instructions`: **-1.2G** (**-5.11%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Elab.Tactic.VCGen.Solve//instructions`: **-2.1G** (**-9.19%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.DSimp.EvalGround//instructions`: **-1.1G** (**-5.40%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Sym.Simp.EvalGround//instructions`: **-1.5G** (**-5.76%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Simproc//instructions`: **-1.5G** (**-4.55%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.FunInd//instructions`: **-1.0G** (**-2.67%**)
- ✅ `build/module/Lean.Meta.Tactic.Grind.AC.Eq//instructions`: **-1.6G** (**-5.81%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.EqCnstr//instructions`: **-3.1G** (**-7.96%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.CommRing.Internalize//instructions`: **-1.4G** (**-14.08%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.EqCnstr//instructions`: **-2.0G** (**-8.40%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Cutsat.Search//instructions`: **-2.9G** (**-12.28%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Arith.Linear.Search//instructions`: **-1.5G** (**-8.88%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Core//instructions`: **-1.1G** (**-8.37%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.EMatch//instructions`: **-1.2G** (**-3.29%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.Tactic.Grind.Internalize//instructions`: **-1.2G** (**-6.58%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Lean.Meta.WrapInstance//instructions`: **-2.4G** (**-21.04%**) (reduced significance based on absolute threshold)
- *and 14 more*

**Small changes (365✅, 407🟥)**

- 🟥 `build/module/Init.Control.Lawful.Instances//instructions`: **+28.7M** (**+0.43%**)
- 🟥 `build/module/Init.Control.Lawful.MonadAttach//instructions`: **+5.6M** (**+1.15%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift.Instances//instructions`: **+8.6M** (**+0.75%**)
- 🟥 `build/module/Init.Control.Lawful.MonadLift//instructions`: **+6.1M** (**+1.25%**)
- 🟥 `build/module/Init.Control.StateRef//instructions`: **+8.2M** (**+0.91%**)
- 🟥 `build/module/Init.Core//instructions`: **+145.3M** (**+1.50%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Attach//instructions`: **+32.1M** (**+0.31%**)
- 🟥 `build/module/Init.Data.Array.Basic//instructions`: **+25.1M** (**+0.23%**)
- ✅ `build/module/Init.Data.Array.Bootstrap//instructions`: **-39.9M** (**-1.71%**)
- ✅ `build/module/Init.Data.Array.Lemmas//instructions`: **-394.4M** (**-0.74%**) (reduced significance based on absolute threshold)
- ✅ `build/module/Init.Data.Array.Lex.Basic//instructions`: **-84.8M** (**-6.13%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Init.Data.Array.Lex//instructions`: **+6.2M** (**+1.25%**)
- 🟥 `build/module/Init.Data.Array.MapIdx//instructions`: **+33.4M** (**+0.38%**)
- 🟥 `build/module/Init.Data.Array.Monadic//instructions`: **+23.1M** (**+0.38%**)
- 🟥 `build/module/Init.Data.Array.QSort//instructions`: **+6.1M** (**+1.22%**)
- 🟥 `build/module/Init.Data.Array.Range//instructions`: **+19.8M** (**+0.50%**)
- 🟥 `build/module/Init.Data.Array.Sort//instructions`: **+6.8M** (**+1.30%**)
- 🟥 `build/module/Init.Data.Array//instructions`: **+6.4M** (**+1.17%**)
- 🟥 `build/module/Init.Data.BEq//instructions`: **+6.3M** (**+0.81%**)
- ✅ `build/module/Init.Data.BitVec.Bitblast//instructions`: **-419.5M** (**-0.84%**) (reduced significance based on absolute threshold)
- *and 751 more*
- *and 1 hidden*

**Review by TwoFX — APPROVED** [review]
This is awesome, thank you for the hard work!
